US07977331B1
To a suspension of N-tert-butyl-2-(2-amino-4-methylphenyl)-3-cyclohexyl-1H-indole-6-sulfonamide (2.14 g, 4.86 mmol), sodium acetate (472 mg, 5.75 mmol) and acetic acid (0.33 ml, 5.76 mmol) in tetrahydrofuran (20 ml) was added dropwise chloroacetyl chloride (0.45 ml, 5.64 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. the reaction mixture was concentrated under reduced pressure, and water was added to the residue. The precipitated solid was collected by filtration and dried in vacuo. A suspension of the obtained solid in diethyl ether was stirred at room temperature for 1 hr. The solid was collected by filtration and dried in vacuo to give N-tert-butyl-2-[2-(chloroacetylamino)-4-methylphenyl]-3-cyclohexyl-1H-indole-6-sulfonamide (2.22 g, yield 89.9%). The obtained crude product was used for Step 10 without further purification.

reactant | N-tert-butyl-2-(2-amino-4-methylphenyl)-3-cyclohexyl-1H-indole-6-sulfonamide | 4.86 mmol, 2.14 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C(=C(NC2=C1)C1=C(C=C(C=C1)C)N)C1CCCCC1 | C25H33N3O2S
reactant | sodium acetate | 5.75 mmol, 472 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 5.76 mmol, 0.33 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 5.64 mmol, 0.45 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-tert-butyl-2-[2-(chloroacetylamino)-4-methylphenyl]-3-cyclohexyl-1H-indole-6-sulfonamide | 2.22 g, yield 89.9% | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C(=C(NC2=C1)C1=C(C=C(C=C1)C)NC(CCl)=O)C1CCCCC1 | C27H34ClN3O3S
